US08293769B2
2-chloro-6-(1H-1,2,4-triazol-1-yl)pyrazine
To a solution of 1,2,4-triazole (276 mg, 4.0 mmol, 2.0 eq) in 1.5 mL of DMF was added carefully sodium hydride (60 wt. %. in mineral oil, 120 mg, 3.0 mmol, 3.0 eq) (caution: intensive gas development). The reaction mixture was stirred at room temperature for 45 min. 2,6-Dichloropyrazine (298 mg, 2.0 mmol, 1.0 eq) in 0.5 mL of DMF was added and the reaction mixture was heated at 95° C. for 60 min. The mixture was allowed to cool to room temperature and diluted with EtOAc (15 mL) and water (15 mL). The separated organic layer was concentrated under reduced pressure to afford crude material containing the title compound. The crude material was suspended in NMP (2 mL) and directly used in coupling reactions with phenols. ES/MS m/z 182.0, (MH+), Rt=1.68 min.

reactant | 1,2,4-triazole | 4.0 mmol, 276 mg, 2.0 eq | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 3.0 mmol, 120 mg, 3.0 eq | [H-].[Na+]
reactant | 2,6-Dichloropyrazine | 2.0 mmol, 298 mg, 1.0 eq | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | water | 15 mL | O | H2O
product | 2-chloro-6-(1H-1,2,4-triazol-1-yl)pyrazine | ClC1=NC(=CN=C1)N1N=CN=C1 | C6H4ClN5
